US05861401
A solution of 5-dimethylamino-1-naphthalenesulphonyl chloride (1.35 g), 5-amino-2-chloropyridine (0.64 g), pyridine (0.4 g) and 4-dimethylaminopyridine (0.02 g) in dichloromethane (20 ml) was allowed to stand for three days. The solution was divided into two equal portions and each portion was applied to a separate silica gel Mega Bond Elut column. The columns were eluted with dichloromethane and the product-containing fractions were concentrated by evaporation. The residue was triturated with ether to give 5-(dimethylamino)-N-(2-chloro-5-pyridyl)-1-naphthalenesulphonamide (0.77 g); m.p. 145°-146° C.; mass spectrum (+ve FAB, methanol/NBA): 362(M+H)+.

reactant | 5-dimethylamino-1-naphthalenesulphonyl chloride | 1.35 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)Cl)C | C12H12ClNO2S
reactant | 5-amino-2-chloropyridine | 0.64 g | NC=1C=CC(=NC1)Cl | C5H5ClN2
reactant | pyridine | 0.4 g | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 0.02 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 5-(dimethylamino)-N-(2-chloro-5-pyridyl)-1-naphthalenesulphonamide | 0.77 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)NC=1C=CC(=NC1)Cl)C | C17H16ClN3O2S
